US07629340B2
3-Bromo-N-cyclopropyl-benzamide
3-Bromo-benzoic acid (2.5518 g, 12.7 mmol) and HATU (5.2230 g, 13.7 mmol) were dissolved in DMF (40 mL). DIEA (4.644 mL, 26.7 mmol) was added, and the mixture was allowed to stir at room temperature for 15 minutes. Then cyclopropylamine (0.88 mL, 12.7 mmol) was added, and the reaction was stirred at ambient temperature overnight. The solvent was removed, and the crude was purified via silica gel chromatography to yield the desired product.

reactant | 3-Bromo-benzoic acid | 12.7 mmol, 2.5518 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | HATU | 13.7 mmol, 5.2230 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 26.7 mmol, 4.644 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 12.7 mmol, 0.88 mL | C1(CC1)N | C3H7N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-N-cyclopropyl-benzamide | BrC=1C=C(C(=O)NC2CC2)C=CC1 | C10H10BrNO
